*
* .CONNECT statements
*
.CONNECT GROUND 0


* ELDO netlist generated with ICnet by 'egrvlsi07' on Thu Mar 28 2019 at 17:38:06

*
* Globals.
*
.global VDD GROUND

*
* MAIN CELL: Component pathname : $VLSI/Project/Adder
*
        M18 N$145 CIN N$165 GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M17 N$145 CIN N$159 VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M16 N$159 B N$157 VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M15 N$157 A VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M24 N$47 CIN GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M23 N$47 B GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M22 N$47 A GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M21 N$145 N$210 N$47 GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M14 N$145 N$210 N$37 VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M13 N$37 CIN VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M12 N$37 B VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M11 N$37 A VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M10 N$7 B VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M9 N$10 B VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M8 N$10 A VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M7 N$210 A N$7 VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M6 N$210 A N$19 GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M5 N$210 CIN N$14 GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M4 N$19 B GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M3 N$14 B GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M2 N$210 CIN N$10 VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M1 N$14 A GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M28 S N$145 GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M27 S N$145 VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M26 COUT N$210 GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M25 COUT N$210 VDD VDD pmos w=2u l=0.13u m=1 as=0.68p ad=0.68p ps=2.68u
+  pd=2.68u
        M20 N$167 A GROUND GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
        M19 N$165 B N$167 GROUND nmos w=2u l=0.13u m=1 as=0.68p ad=0.68p
+  ps=2.68u pd=2.68u
*
.end
